US07205297B2
A mixture of 0.5 g of 1-bromo-4-ethynylbenzene, 5.0 mL of triethylamine, 0.031 mg of copper iodide, 0.94 g of 4-chloro-2-diisopropylaminomethyleneamino-5-iodopyrimidine and 0.046 g of dichlorobis(triphenyl)phosphine palladium II was magnetically stirred at room temperature for 18 hrs. The mixture was diluted with acetonitrile, filtered and the filtrate evaporated in vacuo. The evaporated filtrate was dissolved in dichloromethane and loaded on a column of silica gel equilibrated in the same solvent. Cuts were monitored by thin layer chromatography. After initial cuts of brown colored eluates, the product subsequently eluted as yellow fractions. Like cuts were pooled and evaporated to give 0.84 g of 5-(4-bromophenylethynyl)-4-chloro-2-diisopropylaminomethyleneaminopyrimidine as a thick amber syrup.

reactant | 1-bromo-4-ethynylbenzene | 0.5 g | BrC1=CC=C(C=C1)C#C | C8H5Br
reactant | triethylamine | 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-diisopropylaminomethyleneamino-5-iodopyrimidine | 0.94 g | ClC1=NC(=NC=C1I)N=CN(C(C)C)C(C)C | C11H16ClIN4
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | copper iodide | 0.031 mg | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.046 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(4-bromophenylethynyl)-4-chloro-2-diisopropylaminomethyleneaminopyrimidine | 0.84 g | BrC1=CC=C(C=C1)C#CC=1C(=NC(=NC1)N=CN(C(C)C)C(C)C)Cl | C19H20BrClN4
